US05596002
(RS)-(7-Chloro-quinolin-4-yl)-[2-(2-methyl-piperidin-1-yl) -ethyl]-amine
1.4 g from 2.5 g of N-(2-chloroethyl)-7-chloro-4-quinolinamine hydrochloride; colourless crystals from acetonitrile, m.p.: 133°-134° C.

reactant | N-(2-chloroethyl)-7-chloro-4-quinolinamine hydrochloride | 2.5 g | Cl.ClCCNC1=CC=NC2=CC(=CC=C12)Cl
solvent | acetonitrile | C(C)#N | C2H3N
product | (RS)-(7-Chloro-quinolin-4-yl)-[2-(2-methyl-piperidin-1-yl) -ethyl]-amine | ClC1=CC=C2C(=CC=NC2=C1)NCCN1C(CCCC1)C | C17H22ClN3
